US09023847B2
136. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methyl-benzylamino)-ethyl]-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide using 4-methylbenzaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 406 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.43-11.53 (1H, m) 10.24 (1H, s) 7.95-8.04 (1H, m) 7.75 (1H, d, J=5.47 Hz) 7.44 (1H, d, J=5.47 Hz) 7.25-7.31 (1H, m) 7.14 (1H, d, J=8.00 Hz) 7.03 (1H, d, J=7.81 Hz) 6.77 (1H, d, J=5.47 Hz) 6.41 (1H, dd, J=3.42, 1.85 Hz) 3.60 (2H, s) 3.31-3.36 (2H, m) 2.58 (2H, t, J=6.54 Hz) 2.22 (3H, s)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | 4-methylbenzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methyl-benzylamino)-ethyl]-amide | CC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5OS
